US06759559B2
Preparation of ruthenium dichloride (1R,2R)-N-(2-diphenylphosphanylbenzyl)-N′-[2-diphenylphosphanyl-5-(4-vinylbenzyloxy)benzyl]cyclohexane-1,2-diamine:
2.83 g of (1R,2R)-N-(2-diphenylphosphanylbenzyl)-N′-[2-diphenylphosphanyl-5-(4-vinylbenzyloxy)benzyl]cyclohexan-1,2-diamine (3.5 mmol, 9.4% stabiliser) are refluxed for 1 hour under protective gas with 3.36 g of dichlorotetrakis(dimethyl sulfoxide)ruthenium(II) (7 mmol) in 200 ml of absolute toluene. During the reaction, 120 mg of a yellowish solid precipitate out, which can be identified as a ruthenium-stabiliser complex. Once the reaction solution has been filtered, the solvent is removed in a rotary evaporator and the product separated by column chromatography on silica gel (isohexane/ethyl acetate 2:1). In order to isolate the product, the chromatographic fractions should not be evaporated to dryness, but instead combined with isohexane once the eluent has largely been removed. As a result, the product precipitates as a yellow/orange powder at a yield of 1.86 g (55%).

reactant | (1R,2R)-N-(2-diphenylphosphanylbenzyl)-N′-[2-diphenylphosphanyl-5-(4-vinylbenzyloxy)benzyl]cyclohexan-1,2-diamine | 3.5 mmol, 2.83 g | C1(=CC=CC=C1)P(C1=C(CN[C@H]2[C@@H](CCCC2)NCC2=C(C=CC(=C2)OCC2=CC=C(C=C2)C=C)P(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)C1=CC=CC=C1 | C53H52N2OP2
reactant | dichlorotetrakis(dimethyl sulfoxide)ruthenium(II) | 7 mmol, 3.36 g | CS(=O)C.CS(=O)C.CS(=O)C.CS(=O)C.Cl[Ru]Cl
reactant | ruthenium | [Ru] | Ru
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ruthenium dichloride (1R,2R)-N-(2-diphenylphosphanylbenzyl)-N′-[2-diphenylphosphanyl-5-(4-vinylbenzyloxy)benzyl]cyclohexane-1,2-diamine | C1(=CC=CC=C1)P(C1=C(CN[C@H]2[C@@H](CCCC2)NCC2=C(C=CC(=C2)OCC2=CC=C(C=C2)C=C)P(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)C1=CC=CC=C1.[Ru](Cl)Cl | InChI=1S/C53H52N2OP2.2ClH.Ru/c1-2-41-31-33-42(34-32-41)40-56-45-35-36-53(58(48-24-11-5-12-25-48)49-26-13-6-14-27-49)44(37-45)39-55-51-29-17-16-28-50(51)54-38-43-19-15-18-30-52(43)57(46-20-7-3-8-21-46)47-22-9-4-10-23-47;;;/h2-15,18-27,30-37,50-51,54-55H,1,16-17,28-29,38-40H2;2*1H;/q;;;+2/p-2/t50-,51-;;;/m1.../s1
